US08975254B2
(S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(pyridin-3-yl)-1H-imidazole-4-carboxamide
Under nitrogen atmosphere, a reaction flask was charged with K2CO3 (78 mg, 0.564 mmol), CuI (10.7 mg, 0.056 mmol), 1,3-di(2-pyridyl)-1,3-propanedione (12.8 mg, 0.056 mmol), (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1H-imidazole-4-carboxamide (200 mg, 0.564 mmol), dry DMF (4 ml) and 3-bromopyridine (0.054 ml, 89 mg, 0.564 mmol). The reaction mixture was stirred for 4 h at 130° C. 3-Bromopyridine (0.025 ml, 41 mg, 0.260 mmol) was added, and then heating was continued for 2 h at 130° C. Then the reaction mixture was cooled to RT and passed through a plug of Celite. After being rinsed with ethyl acetate, the combined filtrates were washed with saturated brine, dried and concentrated. The residue was purified by flash chromatography on silica gel using CH2Cl2-MeOH (98:2) as an eluent. Recrystallization in CH2Cl2-Et2O provided the desired product. 1H NMR (400 MHz, CDCl3): 1.25 (3H, d), 4.29 (1H, distorted dd), 4.46 (1H, distorted dd), 4.62 (1H, m), 6.64 (1H, d), 7.50 (1H, m), 7.51 (1H, d), 7.68 (1H, distorted d), 7.74 (1H, m), 7.80 (1H, distorted dd), 7.87 (1H, d), 7.91 (1H, d), 8.11 (1H, d), 8.24 (1H, d), 8.71 (1H, dd), 8.78 (1H, d).

reactant | K2CO3 | 0.564 mmol, 78 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-di(2-pyridyl)-1,3-propanedione | 0.056 mmol, 12.8 mg | N1=C(C=CC=C1)C(CC(=O)C1=NC=CC=C1)=O | C13H10N2O2
reactant | (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1H-imidazole-4-carboxamide | 0.564 mmol, 200 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CNC1 | C17H15ClN6O
reactant | 3-bromopyridine | 0.564 mmol, 0.054 ml, 89 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-Bromopyridine | 0.260 mmol, 0.025 ml, 41 mg | BrC=1C=NC=CC1 | C5H4BrN
catalyst | CuI | 0.056 mmol, 10.7 mg | [Cu]I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(pyridin-3-yl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)C=1C=NC=CC1 | C22H18ClN7O
